US06313127B1
To a solution of benzoic acid (22 mg) in dimethylformamide (2 ml), was added 1,1-carbonyldiimidazole (188 mg) in dimethylformamide (2 ml) and the solution stirred at ambient temperature for 1 hour. A solution of 1-[4-(2-aminoethyl)phenyl]-4-(4-pyridyl)piperazine (268 mg) in dimethylformamide (4 ml) was then added in one portion and the resulting solution stirred at ambient temperature for twelve hours. The solution was evaporated to dryness and aqueous sodium bicarbonate (8 ml, 1M) added. The mixture was d stirred vigorously at ambient temperature for thirty minutes. The solid was collected by filtration, washed with water to give 1-(4-pyridyl)-4-(benzoyl-aminomethyl-phenyl)piperazine (389 mg), retention time 11.49 mins (same HPLC conditions as in Example 57).

reactant | benzoic acid | 22 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-[4-(2-aminoethyl)phenyl]-4-(4-pyridyl)piperazine | 268 mg | NCCC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C17H22N4
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(4-pyridyl)-4-(benzoyl-aminomethyl-phenyl)piperazine | 389 mg | N1=CC=C(C=C1)N1CCN(CC1)C1=C(C(=CC=C1)C(C1=CC=CC=C1)=O)CN | C23H24N4O
